US09428502B2
Compound 357.1. (Z)-Methyl 2-((dimethylamino)methylene)-3-oxobutanoate
Into a 250-mL round-bottom flask, was placed methyl 3-oxobutanoate (10.8 g, 92.6 mmol) and (dimethoxymethyl)dimethylamine (12.7 mL, 95.3 mmol). The resulting solution was stirred for 2.5 h at 80° C., then concentrated under reduced pressure to yield 14.5 g (crude) of the title compound as a red solid.

reactant | methyl 3-oxobutanoate | 92.6 mmol, 10.8 g | O=C(CC(=O)OC)C | C5H8O3
reactant | (dimethoxymethyl)dimethylamine | 95.3 mmol, 12.7 mL | COC(OC)N(C)C | C5H13NO2
product | (Z)-Methyl 2-((dimethylamino)methylene)-3-oxobutanoate | CN(C)\C=C(/C(=O)OC)\C(C)=O | C8H13NO3
